US04507498
A mixture of 1.100 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 2.939 g of 4-[4-acetyl-3-[2-[2-[2-[(methylsulfonyl)oxy]ethoxy]ethoxy]ethoxy]-2-propylphenoxy]butanoic acid ethyl ester and 1.56 g of anhydrous potassium carbonate in 80 ml of anhydrous acetone and 40 ml of anhydrous dimethylformamide was stirred at reflux for 20 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo to a dark oil which was purified by high pressure liquid chromatography using 40% ethyl acetatehexane to give 2.413 g (69% yield) of 4-[4-acetyl-3-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]butanoic acid ethyl ester as an oil.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 1.100 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | 4-[4-acetyl-3-[2-[2-[2-[(methylsulfonyl)oxy]ethoxy]ethoxy]ethoxy]-2-propylphenoxy]butanoic acid ethyl ester | 2.939 g | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCOCCOCCOS(=O)(=O)C)CCC)=O | C24H38O10S
reactant | potassium carbonate | 1.56 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-[4-acetyl-3-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]butanoic acid ethyl ester | 2.413 g, 69% yield | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCOCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C34H48O10
